US08471005B2
Following the example of 532 (D), (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine (0.088 g, 0.00018 mol) and 2-Chloro-5-pyridineboronic acid (0.028 g, 0.00018 mol) were heated at 80° C. overnight. Purification by Gilson chromatography gave [7-(6-Chloro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine (0.022 g, 23%) as a tan solid. MP: 186-188° C.; 1H-NMR (DMSO-d6, 400 MHz) δ 9.18-9.17 (d, 1H, J=2.40 Hz), 8.98 (s, 1H), 8.64-8.61 (d, 1H, J=5.88 Hz), 8.05 (s, 1H), 7.61 (s, 1H), 7.59 (s, 1H), 7.34-7.32 (d, 1H, J=4.80 Hz), 6.97-6.95 (d, 1H, J=4.84 Hz), 6.77 (br, 1H), 6.63 (br, 1H), 3.83 (s, 1H), 3.46 (br, 2H), 2.78 (br, 2H), 2.08-2.01 (br, 3H), 1.66 (m, 2H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine | 0.00018 mol, 0.088 g | BrC1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)OC | C23H30BrN7O
reactant | 2-Chloro-5-pyridineboronic acid | 0.00018 mol, 0.028 g | ClC1=NC=C(C=C1)B(O)O | C5H5BClNO2
product | [7-(6-Chloro-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine | 0.022 g, 23% | ClC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)OC | C28H33ClN8O
